US04673671
Proceeding as in example 70, but replacing for 7-benzyloxy-8-hydroxy-1-(4-benzyloxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzoazepine an equivalent quantity of 3-O-benzyl-4-O-methoxymethyl-N[3-(4-benzyloxyphenyl)-1-methylpropyl]-dopamine base obtained as described in example 48, 3-O-benzyl-4-O-methoxymethyl-N-[3-(4-benzyloxyphenyl)-1-methylpropyl]-N-benzyloxycarbonyl-dopamine was obtained in chromatographically pure oily form (T.L.C., eluent: toluene/ethyl acetate=9/1).

reactant | 7-benzyloxy-8-hydroxy-1-(4-benzyloxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzoazepine | C(C1=CC=CC=C1)OC1=CC2=C(C(CNCC2)C2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1O | C30H29NO3
reactant | 3-O-benzyl-4-O-methoxymethyl-N[3-(4-benzyloxyphenyl)-1-methylpropyl]-dopamine | C(C1=CC=CC=C1)OC=1C=C(CCNC(CCC2=CC=C(C=C2)OCC2=CC=CC=C2)C)C=CC1OCOC | C34H39NO4
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 3-O-benzyl-4-O-methoxymethyl-N-[3-(4-benzyloxyphenyl)-1-methylpropyl]-N-benzyloxycarbonyl-dopamine | C(C1=CC=CC=C1)OC=1C=C(CCN(C(=O)OCC2=CC=CC=C2)C(CCC2=CC=C(C=C2)OCC2=CC=CC=C2)C)C=CC1OCOC | C42H45NO6
